US08445490B2
To a suspension of methyl 4-(4-(3-(4-(3-aminopropoxy)butoxy)propylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate (0.1 g) in acetone (6 mL) was added potassium carbonate in water (6.00 mL). The mixture was heated to reflux for 16 hours. After cooling to r.t., the reaction solution was acidified with 1N HCl to pH=3. All the solvents were removed under vacuum. The residue was purified by prep. HPLC to give 4-(4-(3-(4-(3-aminopropoxy)butoxy)propylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoic acid (28 mg, 0.054 mmol).

reactant | methyl 4-(4-(3-(4-(3-aminopropoxy)butoxy)propylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate | 0.1 g | NCCCOCCCCOCCCNC1=NC(=NC(=N1)OCC(F)(F)F)NC1=CC=C(C(=O)OC)C=C1 | C23H33F3N6O5
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | acetone | 6 mL | CC(=O)C | C3H6O
solvent | water | 6.00 mL | O | H2O
product | 4-(4-(3-(4-(3-aminopropoxy)butoxy)propylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoic acid | 0.054 mmol, 28 mg | NCCCOCCCCOCCCNC1=NC(=NC(=N1)OCC(F)(F)F)NC1=CC=C(C(=O)O)C=C1 | C22H31F3N6O5
